US08895761B2
4′-Chloro-3-methylbiphen-4-ylamine (16.5 g, 0.077 mol) is added to acetonitrile (140 ml) and stirred at room temperature until dissolution is complete. The reaction mixture is cooled to between −5° C. and 0° C., tent-butyl nitrite (90%, 12.4 ml, 0.093 mol) is added dropwise and the reaction mixture is maintained at between −5° C. and 0° C. for 30-40 minutes. The mixture is added slowly to a preheated (50° C.) suspension of copper (I) bromide (5.8 g, 0.04 mol) in hydrobromic acid (5.8 ml) and stirred at 50° C. for 10-15 minutes. The reaction mixture is cooled to room temperature, then poured into ice-cold water and extracted with ethyl acetate (3×300 ml). The organic extracts are washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue is purified by column chromatography on silica gel to yield 4-bromo-4′-chloro-3-methylbiphenyl (11.5 g).

reactant | 4′-Chloro-3-methylbiphen-4-ylamine | 0.077 mol, 16.5 g | ClC1=CC=C(C2=CC=C(C(=C2)C)N)C=C1 | C13H12ClN
reactant | acetonitrile | 140 ml | C(C)#N | C2H3N
reactant | butyl nitrite | 0.093 mol, 12.4 ml | N(=O)OCCCC | C4H9NO2
reactant | hydrobromic acid | 5.8 ml | Br | BrH
catalyst | copper (I) bromide | 0.04 mol, 5.8 g | [Cu]Br
product | 4-bromo-4′-chloro-3-methylbiphenyl | 11.5 g | BrC1=C(C=C(C=C1)C1=CC=C(C=C1)Cl)C | C13H10BrCl
